US07956069B2
The preparation of (1R,2S) (2-amino-cyclohexyl)-carbamic acid tert-butyl ester
To a solution of compound (1R,2S) (2-Azidocyclohexyl-carbamic acid) tert-butyl ester (1.8 g, 7.5 mmol) in methanol (20 mL), 10% Pd—C (360 mg) was added and hydrogenated at 32 psi for 4 h Parr hydrogenator. The reaction mixture was filtered on a celite pad and the filterate was concentrated to give the title compound as a solid (1.1 g, 69%), which was used without further purification. MS: (M+1): 215.07

reactant | (1R,2S) (2-Azidocyclohexyl-carbamic acid) tert-butyl ester | 7.5 mmol, 1.8 g | C(C)(C)(C)OC(N[C@H]1[C@H](CCCC1)N=[N+]=[N-])=O | C11H20N4O2
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd—C | 360 mg | [Pd] | Pd
product | (1R,2S) (2-amino-cyclohexyl)-carbamic acid tert-butyl ester | 1.1 g, 69% | C(C)(C)(C)OC(N[C@H]1[C@H](CCCC1)N)=O | C11H22N2O2
